US04304924
To a mixture of 7.7 g (37.7 mmol) of 4-(2-tetrahydropyranyloxyethoxy)benzoic acid and 31 ml (754 mmol) of anhydrous methanol, at RT, is added 2 drops of conc. sulfuric acid. The mixture is stirred at RT for 1 day and is then rotoevaporated to near dryness. To the residue is added 100 ml water, 50 ml ether and 30 ml aqueous 15% potassium carbonate, and the mixture is stirred until the solid is dissolved. The organic phase is separated and discarded; 150 ml of ethyl acetate and 50 ml of aqueous 3 N sulfuric acid are added to the remaining aqueous phase. The aqueous phase is then separated and extracted with ethyl acetate (80 ml, 3×). The combined organic phases are washed with aqueous saturated sodium chloride (50 ml, 2×) and then dried over calcium sulfate. Removal of solvent by rotoevaporation gives 4-(hydroxyethoxy)benzoic acid.

reactant | 4-(2-tetrahydropyranyloxyethoxy)benzoic acid | 37.7 mmol, 7.7 g | O1C(CCCC1)OCCOC1=CC=C(C(=O)O)C=C1 | C14H18O5
reactant | methanol | 754 mmol, 31 ml | CO | CH4O
reactant | water | 100 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-(hydroxyethoxy)benzoic acid | OCCOC1=CC=C(C(=O)O)C=C1 | C9H10O4
